US06528510B1
6-tert-Butyl-5-thiocyanato-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
The title compound was prepared in the manner described in Example CC using 6-tert-butyl-5-thiocyanato-2,3-dihydro-1H-indole (prepared in Example JJ; 2.0 g, 8.6 mmol), di-t-butyl dicarbonate (2.35 g, 10.8 mmol) and hexanes (150 mL). The crude product was purified by flash silica gel chromatography.

reactant | 6-tert-butyl-5-thiocyanato-2,3-dihydro-1H-indole | 8.6 mmol, 2.0 g | C(C)(C)(C)C1=C(C=C2CCNC2=C1)SC#N | C13H16N2S
reactant | di-t-butyl dicarbonate | 10.8 mmol, 2.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 6-tert-Butyl-5-thiocyanato-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC(=C(C=C12)C(C)(C)C)SC#N | C18H24N2O2S
